US06166209
(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-[2-(spiro[isochroman-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride (1:2)
The title compound, m.p. 190° C. and MS: m/e=439.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene, chloroacetyl chloride, spiro[isochroman-1,4'-piperidine] and Hcl.

reactant | 5-amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | NC1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C15H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | spiro[isochroman-1,4'-piperidine] | N1CCC2(CC1)OCCC1=CC=CC=C12 | C13H17NO
product | (10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-[2-(spiro[isochroman-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)NCCN3CCC2(CC3)OCCC3=CC=CC=C32 | InChI=1S/C30H34N2O.ClH/c1-4-10-26-23(7-1)13-14-24-8-2-5-11-27(24)29(26)31-18-21-32-19-16-30(17-20-32)28-12-6-3-9-25(28)15-22-33-30;/h1-12,29,31H,13-22H2;1H
